US07642220B2
25. Preparation of 2-(4-Chloro-2-fluoro-3-methoxyphenyl)-6-methoxy-7-methyl-7H-purine
2-Chloro-6-methoxy-7-methyl-7H-purine (1.2 g, 6.0 mmol, see Monatshefte fuer Chemie (1985), 116(3), 341-51 for preparation), 2-(4-chloro-2-fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (2.1 g, 8.6 mmol), Pd(PPh3)2Cl2 (300 mg, 0.42 mmol) and cesium fluoride (1.6 g, 11 mmol) were combined in 10 mL dry, deaerated acetonitrile and heated to reflux. After 2 h, the mixture was cooled and mixed with ethyl acetate and water. The organic phase was washed with water, brine, dried and evaporated under vacuum. The residue was purified by flash chromatography on silica gel with 20% ethyl acetaete/hexane to give the title compound (1.3 g, 67% yield: mp 191-192° C.: 1H NMR (CDCl3) δ 8.0 (s, 1H), 7.90 (dd, 1H), 7.22 (dd, 1H), 4.22 (s, 3H), 4.08 (s, 3H), 4.02 (s, 3H).

reactant | 2-Chloro-6-methoxy-7-methyl-7H-purine | 6.0 mmol, 1.2 g | ClC1=NC(=C2N(C=NC2=N1)C)OC | C7H7ClN4O
reactant | 2-(4-chloro-2-fluoro-3-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 8.6 mmol, 2.1 g | ClC1=C(C(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)OC | C13H17BClFO3
reactant | cesium fluoride | 11 mmol, 1.6 g | [F-].[Cs+]
catalyst | Pd(PPh3)2Cl2 | 0.42 mmol, 300 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Chloro-2-fluoro-3-methoxyphenyl)-6-methoxy-7-methyl-7H-purine | 67% yield | ClC1=C(C(=C(C=C1)C1=NC(=C2N(C=NC2=N1)C)OC)F)OC | C14H12ClFN4O2
